US09079865B2
A 25-mL, 3-necked, round-bottomed flask was charged with a solution of (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid (0.5 g) and 4-chloro-6-hydrazinopyrimidine (0.20 g, 1.0 eq.) in EtOAc (5.0 mL). The mixture was cooled at −40° C. and treated with T3P (2.3 mL, 2.5 eq.) and DIPEA (0.98 mL, 4.0 eq.). TLC analysis (using 5% MeOH—CH2Cl2 as eluent) showed that the starting material was consumed after 30 min. The reaction mixture was then diluted with CH2Cl2, washed with water, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure (25° C., 20 mmHg) to afford crude material that was subjected to preparative TLC purification using 5% MeOH—CH2Cl2 with as the mobile phase. This afforded 250 mg (yield: 36.74%) (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)-N′-(6-chloropyrimidin-4-yl-)acrylohydrazide. 1H NMR (400 MHz, DMSO-d6), δ=10.59 (br s, exchangeable, 1H), 9.85 (br s, exchangeable, 1H), 9.52 (s, 1H), 8.50 (s, 2H), 8.38 (s, 1H), 8.27 (s, 1H), 7.52-7.55 (d, 1H, J=10.4 Hz), 6.69 (s, 1H), 6.05-6.08 (d, 1H, J=10.4 Hz); LCMS: Calculated for C17H11ClF6N7O (M+H)+ 478.76. found: 478.09 (RT 2.79 min, purity: 97.51%).

reactant | (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid | 0.5 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)O)(F)F | C13H7F6N3O2
reactant | 4-chloro-6-hydrazinopyrimidine | 0.20 g, 1.0 eq. | ClC1=NC=NC(=C1)NN | C4H5ClN4
reactant | T3P | 2.3 mL, 2.5 eq. | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | DIPEA | 0.98 mL, 4.0 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOAc | 5.0 mL | CCOC(=O)C | C4H8O2
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)-N′-(6-chloropyrimidin-4-yl-)acrylohydrazide | 250 mg, yield: 36.74% | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)NNC1=NC=NC(=C1)Cl)(F)F | C17H10ClF6N7O
